US09079885B2
1,3-bis(2-pyridylimino)-4,7-dihydroxy isoindole (3)
A solution of 1.0 g (6.24 mmol) 2,3-dicyanohydroquinone, 1.23 g (13.11 mmol) 2-aminopyridine and 0.14 g (1.3 mmol) CaCl2 in 20 ml 1-butanol was refluxed under N2. Despite the presents of fluorescent blue 2,3-dicyanohydroquinone starting material, as observed by TLC (CH2Cl2), the reaction was discontinued after 20 days. The reaction mixture was poured into 500 mL of H2O. The precipitate was collected by filtration and was washed with water until no blue fluorescents was observed from the filtrate. The precipitate was then dissolved in boiling CH2Cl2 and then cooled to −40° C. overnight. Precipitate was then collected by filtration and washed with MeOH. 0.485 g (24%), yellow needles. MS (Maldi-TOF): m/z=331.85. HRMS-FAB (m/z): [M+H]+ calcd for C18H14N5O2, 332.1142; found, 332.1136. 1H NMR (400 MHz, CDCl3), δ 13.3 (s, 1H), 8.57 (ddd, J=4.8, 2.0, 0.8 Hz, 2H), 7.75 (ddd, J=8.0, 7.6, 2.0 Hz, 2H), 7.35 (d, J=8.0 Hz, 2H), 7.11 (ddd, J=7.6, 4.8, 0.8 Hz, 2H), 7.00 (s, 2H). 13C NMR (100 MHz, CDCl3) δ 159.3, 154.9, 149.0, 147.9, 147.9, 138.1, 122.4, 121.4, 120.4, 116.2.

reactant | 2,3-dicyanohydroquinone | 6.24 mmol, 1.0 g | C(#N)C1=C(O)C=CC(=C1C#N)O | C8H4N2O2
reactant | 2-aminopyridine | 13.11 mmol, 1.23 g | NC1=NC=CC=C1 | C5H6N2
reactant | CaCl2 | 1.3 mmol, 0.14 g | [Cl-].[Cl-].[Ca+2]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | 1-butanol | 20 ml | C(CCC)O | C4H10O
solvent | H2O | 500 mL | O | H2O
product | 1,3-bis(2-pyridylimino)-4,7-dihydroxy isoindole | N1=C(C=CC=C1)N=C1NC(C2=C(C=CC(=C12)O)O)=NC1=NC=CC=C1 | C18H13N5O2
